US06541638B2
Z-beta-Ala-OH and ethyl-4-aminobenzoate according to 1.2., followed by deprotection according to 6.1. to give 4-(3-Amino-propionylamino)-benzoic acid ethyl ester, MS: 236 (M).

reactant | Z-beta-Ala-OH | N(CCC(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | ethyl-4-aminobenzoate | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
product | 4-(3-Amino-propionylamino)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(CCN)=O)=O | C12H16N2O3
